US07307084B2
38. (S)-2,3-Dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid Dimethylamide (314853)
A solution of 0.4 g (1.1 mmol) 7-hydroxy-((R)-3-hydroxy-3-phenyl-propyl)-2,3-dimethyl-3H-benzimidazole-5-carboxylic acid dimethylamide in 20 ml dry tetrahydrofurane was treated with 0.66 g (3.3 mmol) DIAD and 0.82 g (3.2 mmol) triphenylphosphine and the reaction mixture was stirred at room temperature for 1 h. The reaction was poured into a satured ammonium chloride solution (10 ml) and extracted with ethyl acetate. The organic layers were dried over magnesium sulphate and concentrated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate/methanol=20:1) to afford 0.15 g (42%) of the title compound as a white solid. m.p. 229°-231° C. [α]D=−47° (c=0.2 ln CHCl3). The optical purity was determined by chiral HPLC: column: CHIRALPAK® AD-H 250×4.6 mm, 5 μm; solvent: ethanol/ethanol=1:1 (v/v)+0.1% diethylamine, flow rate: 1 ml/min.

reactant | 7-hydroxy-((R)-3-hydroxy-3-phenyl-propyl)-2,3-dimethyl-3H-benzimidazole-5-carboxylic acid dimethylamide | 1.1 mmol, 0.4 g | CN(C(=O)C1=C(C2=C(N=C(N2C)C)C(=C1)O)CC[C@H](C1=CC=CC=C1)O)C | C21H25N3O3
reactant | DIAD | 3.3 mmol, 0.66 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 3.2 mmol, 0.82 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
product | (S)-2,3-Dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid Dimethylamide | 0.15 g, 42% | CN(C(=O)C=1C=2CC[C@H](OC2C2=C(N(C(=N2)C)C)C1)C1=CC=CC=C1)C | C21H23N3O2
